US07345050B2
2-[4-(4-Morpholinobenzoyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine
A mixture of sodium tert-butoxide (31 mg, 0.32 mmol), palladium acetate (3 mg, 0.013 mmol), and (S)-BINAP (11 mg, 0.018 mmol) in toluene (2 mL) was stirred at room temperature for 0.5 h. A warm suspension of 2-amino-4-(imidazo[1,2-a]pyridin-3-yl)pyrimidine (58 mg, 0.27 mmol) in toluene (4 mL) and 4-bromo-4′-morpholinobenzophenone (79 mg, 0.23 mmol) was added, and the mixture was heated at 100° C. for 4 h. The solvent was removed in vacuo, and the residue was partitioned between dichloromethane and water. The phases were separated and the organic layer was washed with brine, dried (MgSO4) and the solvent was removed in vacuo. The crude product was purified by column chromatography on silica gel using chloroform/ethanol, 98:2, as the eluent affording 25 mg (23% yield) of the title compound as a yellow solid: mp (decomp.) >237° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.18 (d, J=6.8 Hz, 1 H), 10.1 (s, 1 H), 8.68 (s, 1 H), 8.53 (d, J=5.4 Hz, 1 H), 7.96 (d, J=8.5 Hz, 2 H), 7.80 (d, J=8.9 Hz, 1 H), 7.73 (d, J=8.6 Hz, 2 H), 7.69 (d, J=8.7 Hz, 2 H), 7.56-7.51 (m, 2 H), 7.19 (t, J=6.8 Hz, 1 H), 7.05 (d, J=8.7 Hz, 2 H), 3.76 (s, 4 H), 3.33 (s, 4 H); 13C NMR (400 MHz, DMSO-d6) δ 193.0, 159.4, 157.6, 157.3, 153.9, 148.3, 144.3, 139.3, 131.9, 131.1, 131.0, 129.7, 127.5, 127.4, 121.3, 118.2, 117.7, 114.2, 113.3, 108.4, 66.2, 47.2; MS (TSP) 7 m/z 477 (M+1).

reactant | sodium tert-butoxide | 0.32 mmol, 31 mg | CC(C)([O-])C.[Na+]
reactant | (S)-BINAP | 0.018 mmol, 11 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 2-amino-4-(imidazo[1,2-a]pyridin-3-yl)pyrimidine | 0.27 mmol, 58 mg | NC1=NC=CC(=N1)C1=CN=C2N1C=CC=C2 | C11H9N5
reactant | 4-bromo-4′-morpholinobenzophenone | 0.23 mmol, 79 mg | BrC1=CC=C(C(=O)C2=CC=C(C=C2)N2CCOCC2)C=C1 | C17H16BrNO2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.013 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(4-Morpholinobenzoyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine | 25 mg, 23% yield | O1CCN(CC1)C1=CC=C(C(=O)C2=CC=C(NC3=NC=CC(=N3)C3=CN=C4N3C=CC=C4)C=C2)C=C1 | C28H24N6O2
